US07432258B2
N-[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dimethyl-2-oxo-1(2H)-quinoxalinyl)-N-methylacetamide
[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]methylamine (180 mg, 0.62 mmol) was added to a solution of (6,7-dimethyl-2-oxo-1(2H)-quinoxalinyl)acetic acid (120 mg, 0.52 mmol), (benzotriazol-1-yloxy) tris(dimethylamino) phosphonium-hexafluorophosphate (BOP) (270 mg, 0.62 mmol) and diisopropylethylamine (340 mg, 2.6 mmol) in dimethylformamide (DMF) (5 mL). The reaction mixture was stirred at room temperature for 3h, filtered and washed with DMF. The crude was purified by preparative HPLC (YMC CombiPrep ODS-A, 50×20 mm, 20 mL/min, A: acetonitrile B: water, A: 10 to 90% over 10 min, UV detection at 214 nm) to give the title compound (43 mg, 14% ), MS (ES) m/e 511 [M+H]+.

reactant | [1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]methylamine | 0.62 mmol, 180 mg | C1(=CC=C(C=C1)C(CN1CCOCC1)NC)C1=CC=CC=C1 | C19H24N2O
reactant | (6,7-dimethyl-2-oxo-1(2H)-quinoxalinyl)acetic acid | 0.52 mmol, 120 mg | CC=1C=C2N=CC(N(C2=CC1C)CC(=O)O)=O | C12H12N2O3
reactant | diisopropylethylamine | 2.6 mmol, 340 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dimethyl-2-oxo-1(2H)-quinoxalinyl)-N-methylacetamide | 43 mg, 14% | C1(=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(C=NC2=CC(=C(C=C12)C)C)=O)=O)C)C1=CC=CC=C1 | C31H34N4O3
